US07674789B2
3-{8-(2,6-difluorophenyl)-2-[(1-methyl-4-piperidinyl)amino]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-N,N-diethyl-4-methylbenzamide
3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N,N-diethyl-4-methylbenzamide-(0.053 g, 0.1 mmol) was dissolved in THF (5 mL) and 1-methyl-4-piperidinamine (0.044 g, 0.5 mmol) was added. The reaction was stirred under argon overnight. The solvents were pumped off in vacuo, and the residue was purified by mass directed auto prep. The fractions were evaporated, and aqueous basic workup gave the title compound as a white amorphous solid. mp 165-169° C. LC-MS m/z 564 (M+H)+, 1.44 min (ret time).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N,N-diethyl-4-methylbenzamide- | 0.1 mmol, 0.053 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)N(CC)CC)C=CC2C)S(=O)(=O)C)=O | C25H25F2N5O4S
reactant | 1-methyl-4-piperidinamine | 0.5 mmol, 0.044 g | CN1CCC(CC1)N | C6H14N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-{8-(2,6-difluorophenyl)-2-[(1-methyl-4-piperidinyl)amino]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-N,N-diethyl-4-methylbenzamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)N(CC)CC)C=CC2C)NC2CCN(CC2)C)=O | C30H35F2N7O2
